US06987116B2
A mixture of 4-(2-thienyl)butyric acid (4.25 g, 25.0 mmol) and 3 mL of concentrated sulfuric acid in 25 mL of methanol is heated at reflux for 2 hours. The reaction mixture is cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium carbonate solution. The organic layer is separated and passed through a short pad of silica gel. The filtrate is concentrated and purified by flash column chromatography eluting with 1:5 ethyl acetate:hexane to provide 4.02 g of 4-thiophen-2-yl-butyric acid methyl ester as a yellow oil, 1H NMR (DMSO-d6) δ 1.85 (quintet, J=7 Hz, 2H), 2.35 (t, J=7 Hz, 2H), 2.81 (t, J=7 Hz, 2H), 3.59 (s, 3H), 6.84 (m, 1H), 6.95 (m, 1H), 7.32 (dd, J=5, 1 Hz, 1H); MS 185.0 (M+H)+.

reactant | 4-(2-thienyl)butyric acid | 25.0 mmol, 4.25 g | S1C(=CC=C1)CCCC(=O)O | C8H10O2S
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 25 mL | CO | CH4O
product | 4-thiophen-2-yl-butyric acid methyl ester | 4.02 g | COC(CCCC=1SC=CC1)=O | C9H12O2S
